US05442070
A solution of 0.47 g of potassium iodide in 5 cm3 of water is added with stirring at approximately 20° C. to a suspension of 8.6 g of 3-cyano-7,8-difluoro-1-methyl-4-oxo-1,2,3,4-tetrahydrobenzo[b][1,8]naphthyridine in 350 cm3 of ethanol. The suspension is heated to 77° C., and 4 cm3 of 33% by weight hydrogen peroxide are added in the course of 10 minutes at this temperature. The reaction mixture is kept refluxing for a further 30 minutes and is then cooled to approximately 20° C. 10 cm3 of 1N sodium thiosulphate solution are added in the course of 5 minutes at this temperature. The precipitate obtained is drained at approximately 20° C. and washed with twice 20 cm3 of water. The wet product obtained is dried under reduced pressure (20 kPa) at approximately 50° C. 8 g of 3-cyano-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b]-[1,8]naphthyridine are obtained in the form of a light yellow solid, melting point 380° C.

reactant | potassium iodide | 0.47 g | [I-].[K+]
reactant | 3-cyano-7,8-difluoro-1-methyl-4-oxo-1,2,3,4-tetrahydrobenzo[b][1,8]naphthyridine | 8.6 g | C(#N)C1C(C=2C=C3C(=NC2N(C1)C)C=C(C(=C3)F)F)=O | C14H9F2N3O
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium thiosulphate | 1N, 10 cm3 | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 5 cm3 | O | H2O
solvent | ethanol | 350 cm3 | C(C)O | C2H6O
product | 3-cyano-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b]-[1,8]naphthyridine | 8 g | C(#N)C=1C(C=2C=C3C(=NC2N(C1)C)C=C(C(=C3)F)F)=O | C14H7F2N3O
